### PR TITLE
[Merged by Bors] - chore: remove declarations deprecated before 2025-04-21

### PR DESCRIPTION
**Pull request by leanprover-community-bot-assistant**
I am happy to remove some deprecated declarations for you!
Please check if there are any remaining stray comments or other issues before merging.

The following files contained only deprecated declarations and have been deleted:
- Mathlib/Deprecated/AnalyticManifold.lean
- Mathlib/Geometry/Manifold/AnalyticManifold.lean

---

[workflow run for this PR](https://github.com/leanprover-community/mathlib4/actions/runs/18690957407)

### CODE REVIEW

File: Mathlib/Algebra/Category/Grp/Basic.lean [hunk 1]
```diff
@@ -603,27 +603,3 @@ abbrev AddCommGrpMax.{u1, u2} := AddCommGrpCat.{max u1 u2}
 /-!
 Deprecated lemmas for `MonoidHom.comp` and categorical identities.
 -/
```
Comment (bryangingechen) [inline Mathlib/Algebra/Category/Grp/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 2]
```diff
@@ -224,37 +224,25 @@ theorem mul_eq_left : a * b = a ↔ b = 1 := calc
   a * b = a ↔ a * b = a * 1 := by rw [mul_one]
   _ ↔ b = 1 := mul_left_cancel_iff
 
-@[deprecated (since := "2025-03-05")] alias mul_right_eq_self := mul_eq_left
-@[deprecated (since := "2025-03-05")] alias add_right_eq_self := add_eq_left
-
 set_option linter.existingAttributeWarning false in
 attribute [to_additive existing] mul_right_eq_self
```
Comment (bryangingechen) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 3]
```diff
@@ -224,37 +224,25 @@ theorem mul_eq_left : a * b = a ↔ b = 1 := calc
...
 
 @[to_additive (attr := simp)]
 theorem left_eq_mul : a = a * b ↔ b = 1 :=
   eq_comm.trans mul_eq_left
 
-@[deprecated (since := "2025-03-05")] alias self_eq_mul_right := left_eq_mul
-@[deprecated (since := "2025-03-05")] alias self_eq_add_right := left_eq_add
-
 set_option linter.existingAttributeWarning false in
 attribute [to_additive existing] self_eq_mul_right
```
Comment (bryangingechen) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 4]
```diff
@@ -224,37 +224,25 @@ theorem mul_eq_left : a * b = a ↔ b = 1 := calc
...
 
 @[to_additive]
 theorem mul_ne_left : a * b ≠ a ↔ b ≠ 1 := mul_eq_left.not
 
-@[deprecated (since := "2025-03-05")] alias mul_right_ne_self := mul_ne_left
-@[deprecated (since := "2025-03-05")] alias add_right_ne_self := add_ne_left
-
 set_option linter.existingAttributeWarning false in
 attribute [to_additive existing] mul_right_ne_self
```
Comment (bryangingechen) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 5]
```diff
@@ -224,37 +224,25 @@ theorem mul_eq_left : a * b = a ↔ b = 1 := calc
...
 
 @[to_additive]
 theorem left_ne_mul : a ≠ a * b ↔ b ≠ 1 := left_eq_mul.not
 
-@[deprecated (since := "2025-03-05")] alias self_ne_mul_right := left_ne_mul
-@[deprecated (since := "2025-03-05")] alias self_ne_add_right := left_ne_add
-
 set_option linter.existingAttributeWarning false in
 attribute [to_additive existing] self_ne_mul_right
```
Comment (bryangingechen) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 6]
```diff
@@ -269,37 +257,25 @@ theorem mul_eq_right : a * b = b ↔ a = 1 := calc
   a * b = b ↔ a * b = 1 * b := by rw [one_mul]
   _ ↔ a = 1 := mul_right_cancel_iff
 
-@[deprecated (since := "2025-03-05")] alias mul_left_eq_self := mul_eq_right
-@[deprecated (since := "2025-03-05")] alias add_left_eq_self := add_eq_right
-
 set_option linter.existingAttributeWarning false in
 attribute [to_additive existing] mul_left_eq_self
```
Comment (bryangingechen) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 7]
```diff
@@ -269,37 +257,25 @@ theorem mul_eq_right : a * b = b ↔ a = 1 := calc
...
 
 @[to_additive (attr := simp)]
 theorem right_eq_mul : b = a * b ↔ a = 1 :=
   eq_comm.trans mul_eq_right
 
-@[deprecated (since := "2025-03-05")] alias self_eq_mul_left := right_eq_mul
-@[deprecated (since := "2025-03-05")] alias self_eq_add_left := right_eq_add
-
 set_option linter.existingAttributeWarning false in
 attribute [to_additive existing] self_eq_mul_left
```
Comment (bryangingechen) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 8]
```diff
@@ -269,37 +257,25 @@ theorem mul_eq_right : a * b = b ↔ a = 1 := calc
...
 
 @[to_additive]
 theorem mul_ne_right : a * b ≠ b ↔ a ≠ 1 := mul_eq_right.not
 
-@[deprecated (since := "2025-03-05")] alias mul_left_ne_self := mul_ne_right
-@[deprecated (since := "2025-03-05")] alias add_left_ne_self := add_ne_right
-
 set_option linter.existingAttributeWarning false in
 attribute [to_additive existing] mul_left_ne_self
```
Comment (bryangingechen) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
```

File: Mathlib/Algebra/Group/Basic.lean [hunk 9]
```diff
@@ -269,37 +257,25 @@ theorem mul_eq_right : a * b = b ↔ a = 1 := calc
...
 
 @[to_additive]
 theorem right_ne_mul : b ≠ a * b ↔ a ≠ 1 := right_eq_mul.not
 
-@[deprecated (since := "2025-03-05")] alias self_ne_mul_left := right_ne_mul
-@[deprecated (since := "2025-03-05")] alias self_ne_add_left := right_ne_add
-
 set_option linter.existingAttributeWarning false in
 attribute [to_additive existing] self_ne_mul_left
```
Comment (bryangingechen) [inline Mathlib/Algebra/Group/Basic.lean]:
```suggestion
```

File: Mathlib/Data/List/Basic.lean [hunk 10]
```diff
@@ -882,19 +879,8 @@ end FoldlMFoldrM
 
 /-! ### intersperse -/
```
Comment (bryangingechen) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
```

File: Mathlib/Data/List/Basic.lean [hunk 11]
```diff
@@ -882,19 +879,8 @@ end FoldlMFoldrM
...
 
-@[deprecated (since := "2025-02-07")] alias intersperse_singleton := intersperse_single
-@[deprecated (since := "2025-02-07")] alias intersperse_cons_cons := intersperse_cons₂
-
 /-! ### map for partial functions -/
```
Comment (bryangingechen) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 12]
```diff
@@ -580,129 +580,23 @@ end ENNReal
 
 namespace Real
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 13]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
 
-@[deprecated (since := "2025-03-14")] alias IsConjExponent := HolderConjugate
-@[deprecated (since := "2025-03-14")] alias isConjExponent_iff := holderConjugate_iff
-@[deprecated (since := "2025-03-14")] alias IsConjExponent.one_lt := HolderTriple.lt
-@[deprecated (since := "2025-03-14")] alias IsConjExponent.inv_add_inv_conj :=
-  HolderConjugate.inv_add_inv_eq_one
-
 namespace IsConjExponent
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 14]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
-@[deprecated (since := "2025-03-14")] alias symm := HolderConjugate.symm
-@[deprecated (since := "2025-03-14")] alias div_conj_eq_sub_one :=
-  HolderConjugate.div_conj_eq_sub_one
-@[deprecated (since := "2025-03-14")] alias inv_inv := HolderConjugate.inv_inv
-@[deprecated (since := "2025-03-14")] alias inv_one_sub_inv := HolderConjugate.inv_one_sub_inv
-@[deprecated (since := "2025-03-14")] alias one_sub_inv_inv := HolderConjugate.one_sub_inv_inv
-@[deprecated (since := "2025-03-14")] alias inv_add_inv_conj_ennreal :=
-  HolderConjugate.inv_add_inv_ennreal
-
 end IsConjExponent
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 15]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
-@[deprecated (since := "2025-03-14")] alias isConjExponent_comm := holderConjugate_comm
-@[deprecated (since := "2025-03-14")] alias isConjExponent_iff_eq_conjExponent :=
-  holderConjugate_iff_eq_conjExponent
-@[deprecated (since := "2025-03-14")] alias IsConjExponent.conjExponent :=
-  HolderConjugate.conjExponent
-@[deprecated (since := "2025-03-14")] alias isConjExponent_one_div := holderConjugate_one_div
-
 end Real
 
 namespace NNReal
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 16]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
 
-@[deprecated (since := "2025-03-14")] alias IsConjExponent := HolderConjugate
-@[deprecated (since := "2025-03-14")] alias isConjExponent_iff := holderConjugate_iff
-@[deprecated (since := "2025-03-14")] alias IsConjExponent.one_lt := HolderTriple.lt
-@[deprecated (since := "2025-03-14")] alias IsConjExponent.inv_add_inv_conj :=
-  HolderConjugate.inv_add_inv_eq_one
-@[deprecated (since := "2025-03-14")] alias isConjExponent_coe := holderConjugate_coe_iff
-@[deprecated (since := "2025-03-14")] alias IsConjExponent.coe := HolderConjugate.coe
-
 namespace IsConjExponent
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 17]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
-@[deprecated (since := "2025-03-14")] alias symm := HolderConjugate.symm
-@[deprecated (since := "2025-03-14")] alias div_conj_eq_sub_one :=
-  HolderConjugate.div_conj_eq_sub_one
-@[deprecated (since := "2025-03-14")] alias inv_inv := HolderConjugate.inv_inv
-@[deprecated (since := "2025-03-14")] alias inv_one_sub_inv := HolderConjugate.inv_one_sub_inv
-@[deprecated (since := "2025-03-14")] alias one_sub_inv_inv := HolderConjugate.one_sub_inv_inv
-@[deprecated (since := "2025-03-14")] alias inv_add_inv_conj_ennreal :=
-  HolderConjugate.inv_add_inv_ennreal
-
 end IsConjExponent
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 18]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
 
-@[deprecated (since := "2025-03-14")] alias isConjExponent_comm := holderConjugate_comm
-@[deprecated (since := "2025-03-14")] alias isConjExponent_iff_eq_conjExponent :=
-  holderConjugate_iff_eq_conjExponent
-@[deprecated (since := "2025-03-14")] alias IsConjExponent.conjExponent :=
-  HolderConjugate.conjExponent
-@[deprecated (since := "2025-03-14")] alias isConjExponent_one_div := holderConjugate_one_div
-
 end NNReal
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 19]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
 
-@[deprecated (since := "2025-03-14")] alias Real.IsConjExponent.toNNReal :=
-  Real.HolderTriple.toNNReal
-
 namespace ENNReal
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 20]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
 
-@[deprecated (since := "2025-03-14")] alias IsConjExponent := HolderConjugate
-@[deprecated (since := "2025-03-14")] alias isConjExponent_iff := holderConjugate_iff
-@[deprecated (since := "2025-03-14")] alias isConjExopnent_coe := holderConjugate_coe_iff
-@[deprecated (since := "2025-03-14")] alias _root_.NNReal.IsConjExponent.coe_ennreal :=
-  NNReal.HolderConjugate.coe_ennreal
-
 namespace IsConjExponent
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 21]
```diff
@@ -580,129 +580,23 @@ end ENNReal
...
-@[deprecated (since := "2025-03-14")] alias div_conj_eq_sub_one :=
-  HolderConjugate.div_conj_eq_sub_one
-@[deprecated (since := "2025-03-14")] alias inv_inv := HolderConjugate.inv_inv
-@[deprecated (since := "2025-03-14")] alias inv_one_sub_inv := HolderConjugate.inv_one_sub_inv
-@[deprecated (since := "2025-03-14")] alias one_sub_inv_inv := HolderConjugate.one_sub_inv_inv
-@[deprecated (since := "2025-03-14")] alias top_one := HolderConjugate.top_one
-@[deprecated (since := "2025-03-14")] alias one_top := HolderConjugate.one_top
-
 end IsConjExponent
 end ENNReal
```
Comment (bryangingechen) [inline Mathlib/Data/Real/ConjExponents.lean]:
```suggestion
```

**Review by bryangingechen — COMMENTED** [review]
These are suggestions from @Ruben-VandeVelde from #30098, a version of this PR generated while the workflow was still being tested.

File: Mathlib/Logic/Equiv/Set.lean [hunk 22]
```diff
@@ -251,9 +251,6 @@ protected def singleton {α} (a : α) : ({a} : Set α) ≃ PUnit.{u} :=
     subst x
     rfl, fun ⟨⟩ => rfl⟩
 
-@[deprecated (since := "2025-03-19"), simps! apply symm_apply]
-protected alias ofEq := Equiv.setCongr
-
 attribute [deprecated Equiv.setCongr_apply (since := "2025-03-19")] Set.ofEq_apply
 attribute [deprecated Equiv.setCongr_symm_apply (since := "2025-03-19")] Set.ofEq_symm_apply
```
Comment (bryangingechen) [inline Mathlib/Logic/Equiv/Set.lean]:
```suggestion
```

File: Mathlib/Algebra/Order/Group/Defs.lean [hunk 23]
```diff
@@ -86,14 +82,14 @@ theorem exists_one_lt' [Nontrivial α] : ∃ a : α, 1 < a := by
   · exact ⟨y, h⟩
 
 -- see Note [lower instance priority]
-@[to_additive]
+@[to_additive LinearOrderedAddCommGroup.to_noMaxOrder]
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Group/Defs.lean]: I'm surprised `to_additive` suggested the name of the original lemma again here and below. I guess it doesn't know that `CommGroup` should become `AddCommGroup` if it starts with `LinearOrdered`? Possibly something to look into after #29352.

cc: @fpvandoorn, @JovanGerb

File: Mathlib/Algebra/Order/Ring/Defs.lean [hunk 24]
```diff
@@ -241,23 +241,6 @@ end LinearOrder
 /-! Note that `OrderDual` does not satisfy any of the ordered ring typeclasses due to the
 `zero_le_one` field. -/
 
-/- It's not entirely clear we should assume `Nontrivial` at this point; it would be reasonable to
-explore changing this, but be warned that the instances involving `Domain` may cause typeclass
-search loops. -/
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Ring/Defs.lean:300]: I didn't understand this comment, but I assumed it was attached to the following `attribute` command so I deleted it.

Comment (adomani) [reply Mathlib/Algebra/Order/Ring/Defs.lean:300]: Maybe it makes more sense if this comment were moved to line 127, where `IsStrictOrderedSemiring` is defined and the `Nontrivial` assumption shows up?

**Comment by adomani** [comment]
It looks like the whole file `Mathlib/Algebra/Order/Field/Defs.lean` can be removed now.

File: Mathlib/Algebra/Order/Ring/Defs.lean (hunk 24 above)
Comment (bryangingechen) [reply Mathlib/Algebra/Order/Ring/Defs.lean:300]: Looks like it was originally attached to a removed declaration, so I think we're most likely fine removing this:

https://github.com/leanprover-community/mathlib4/blob/c9e5385874ef9855f0b43408ad9867e9c74853d3/Mathlib/Algebra/Order/Ring/Defs.lean#L326

File: Mathlib/Algebra/Order/Group/Defs.lean (hunk 23 above)
Comment (bryangingechen) [reply Mathlib/Algebra/Order/Group/Defs.lean]: Ah, of course. `LinearOrderedCommGroup` and `LinearOrderedAddCommGroup` were deprecated so of course `to_additive` doesn't know anything about these anymore. Is it worth keeping the namespaces and adding them to the dictionary?

**Comment by bryangingechen** [comment]
If we remove the file then should we leave pointers somewhere for people looking for linear ordered (semi)fields?

**Comment by adomani** [comment]
Ah, that might be a good comment for the deprecated module command!

Something like, creating the deprecated module and in the optional string comment mention the removed typeclasses.

**Comment by bryangingechen** [comment]
That's definitely something we need, but I worry about what happens after the deprecations are removed -- then there's no trace that linear ordered (semi)fields ever existed in mathlib and no way to search for them. 

Similarly, will people looking for `LinearOrderedCommGroup` in the future be able to figure out the precise combination of typeclasses needed without studying mathlib's typeclass hierarchy carefully? (Even if the point is that thinking in "the mathlib way" means that you don't look for structures like that anymore, I think there's still potential for confusion...)

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 25]
```diff
@@ -100,8 +100,9 @@ instance : Unique (ℤ ≃+o ℤᵒᵈ) where
 open Subgroup in
 /-- In two linearly ordered groups, the closure of an element of one group
 is isomorphic (and order-isomorphic) to the closure of an element in the other group. -/
-@[to_additive /-- In two linearly ordered additive groups, the closure of an element of one group
-is isomorphic (and order-isomorphic) to the closure of an element in the other group. -/]
+@[to_additive LinearOrderedAddCommGroup.closure_equiv_closure /-- In two linearly ordered additive
```
Comment (bryangingechen) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean]: Tagging another instance of `LinearOrderedCommGroup` / `LinearOrderedAddCommGroup` namespaces.

File: Mathlib/Topology/Algebra/Module/Alternating/Basic.lean [hunk 26]
```diff
@@ -352,10 +352,10 @@ def _root_.ContinuousLinearEquiv.continuousAlternatingMapCongrRightEquiv (e : N
   left_inv f := by ext; simp [(· ∘ ·)]
   right_inv f := by ext; simp [(· ∘ ·)]
 
-set_option linter.deprecated false in
```
Comment (bryangingechen) [inline Mathlib/Topology/Algebra/Module/Alternating/Basic.lean:363]: @urkud Do you remember why you chose to put `set_option linter.deprecated false` here in #24159 instead of just replacing the deprecated name with the undeprecated one? Just checking that this is the right fix here.

File: Mathlib/Topology/Order/LeftRightNhds.lean [hunk 27]
```diff
@@ -344,7 +344,7 @@ theorem orderTopology_of_nhds_mabs {α : Type*} [TopologicalSpace α] [CommGroup
   letI := Preorder.topology α; letI : OrderTopology α := ⟨rfl⟩
   exact (nhds_eq_iInf_mabs_div a).symm
 
-@[to_additive]
+@[to_additive LinearOrderedAddCommGroup.tendsto_nhds]
```
Comment (bryangingechen) [inline Mathlib/Topology/Order/LeftRightNhds.lean]: Another case of `LinearOrderedCommGroup` / `LinearOrderedAddCommGroup` namespaces.

**Comment by adomani** [comment]
I agree that this could cause trouble downstream, but the deprecations have been in place for over 6 months, so people could have reacted to them?  :shrug:

**Comment by bryangingechen** [comment]
Sorry, I guess my point still isn't clear. I'm not sure how important linear ordered (semi)fields / linear ordered comm groups are in and of themselves, but supposing they were mathematically interesting objects, I could imagine someone trying to search mathlib docs for them specifically, but then find nothing. If it's the case that they aren't something people are likely to independently search for, then this is a complete non-issue. Otherwise, I would say we should leave those keywords somewhere in the docs so that people looking for them will know what to do.

**Comment by bryangingechen** [comment]
@adomani Maybe in the next version we can automate cleaning up the `assert_not_exists` declarations as well? 🙏

File: docs/overview.yaml [hunk 28]
```diff
@@ -59,7 +59,7 @@ General algebra:
     localization: 'Localization'
     local ring: 'IsLocalRing'
     Noetherian ring: 'IsNoetherianRing'
-    ordered ring: 'OrderedRing'
+    # ordered ring: 'OrderedRing'
```
Comment (bryangingechen) [inline docs/overview.yaml:62]: This would be a natural place to put information about the combination of type classes that yields an ordered ring; I guess this doesn't support multiple declarations though. If we did change this so that it could show multiple type classes then this would be an answer to my earlier comments about linearly ordered (semi)-fields / linearly ordered add comm groups.

**Comment by adomani** [comment]
I agree that we should be doing the clean-up more thoroughly.

We can probably search the `ilean`s for references to the deprecated declarations that are going to be removed to at least get some ranges that might have been missed by the deprecation warnings.

Auto-removing these needs some thought, for instance with situations like using an old deprecated name as a suggestion for a newly deprecated declaration.  Or also, an `assert_not_exists` that contains both deprecated and non-deprecated names.

This may require some hard-coded heuristic for what to remove/modify.

File: Mathlib/Algebra/Order/Group/Defs.lean (hunk 23 above)
Comment (fpvandoorn) [reply Mathlib/Algebra/Order/Group/Defs.lean]: You can write the following command where the original `LinearOrderedCommGroup` was (make sure it's imported by any lemma that uses this namespace).
```lean
run_cmd to_additive.map_namespace `LinearOrderedCommGroup `LinearOrderedAddCommGroup
```

Comment (fpvandoorn) [reply Mathlib/Algebra/Order/Group/Defs.lean]: Oh, never mind, that seems to be an unported Lean 3 feature...

Comment (fpvandoorn) [reply Mathlib/Algebra/Order/Group/Defs.lean]: The correct incantation is 
```lean
run_meta ToAdditive.insertTranslation `LinearOrderedCommGroup `LinearOrderedAddCommGroup
```
I'll update the `ToAdditive` doc.

**Comment by bryangingechen** [comment]
Ah, good point; I wonder if I should have replaced these `assert_not_exist`s with something else instead of just deleting them.

File: Mathlib/Algebra/Order/Group/Defs.lean (hunk 23 above)
Comment (bryangingechen) [reply Mathlib/Algebra/Order/Group/Defs.lean]: Thanks, looks like your PR is #30784! I've switched to using `insertTranslation` in the latest commit.

File: Mathlib/Algebra/Order/Group/Defs.lean [hunk 29]
```diff
@@ -54,6 +54,9 @@ instance (priority := 100) IsOrderedMonoid.toIsOrderedCancelMonoid
 /-!
 ### Linearly ordered commutative groups
 -/
+/- `LinearOrderedCommGroup` and `LinearOrderedAddCommGroup` no longer exist,
+but we still use the namespaces. -/
+run_meta ToAdditive.insertTranslation `LinearOrderedCommGroup `LinearOrderedAddCommGroup
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Group/Defs.lean:62]: Drawing attention to this: will these namespaces become tech debt?

Should we add some text above mentioning that the way to get linearly ordered comm groups is `[CommGroup α] [LinearOrder α] [IsOrderedMonoid α]` (and similarly for add groups)

File: Mathlib/Analysis/Normed/Order/Lattice.lean [hunk 30]
```diff
@@ -62,12 +62,6 @@ instance Int.hasSolidNorm : HasSolidNorm ℤ where
 
 end SolidNorm
 
-instance Int.hasSolidNorm : HasSolidNorm ℤ where
-  solid x y h := by simpa [← Int.norm_cast_real, ← Int.cast_abs] using h
-
-instance Rat.hasSolidNorm : HasSolidNorm ℚ where
-  solid x y h := by simpa [← Rat.norm_cast_real, ← Rat.cast_abs] using h
-
```
Comment (bryangingechen) [inline Mathlib/Analysis/Normed/Order/Lattice.lean]: These were moved above, so this is correct.

File: Mathlib/Algebra/Order/Group/Defs.lean (hunk 29 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Group/Defs.lean:62]: I think we should get rid of these. I don't believe there's a pattern of putting a theorem in a namespace corresponding to some typeclass that it uses, and I don't think we should start one either. The idiomatic names would look like `X_of_typeclass` rather than `TypeClass.X`.

File: Mathlib/Topology/UniformSpace/Defs.lean [hunk 31]
```diff
@@ -213,83 +212,70 @@ theorem subset_iterate_compRel {s t : SetRel α α} (h : idRel ⊆ s) (n : ℕ)
...
 
 set_option linter.deprecated false in
-@[deprecated SetRel.symmetrize_mono (since := "2025-03-05")]
-theorem symmetrize_mono {V W : SetRel α α} (h : V ⊆ W) : symmetrizeRel V ⊆ symmetrizeRel W :=
-  inter_subset_inter h <| preimage_mono h
-
-set_option linter.deprecated false in
-@[deprecated SetRel.comm (since := "2025-03-05")]
+@[deprecated SetRel.comm (since := "2025-10-17")]
 theorem IsSymmetricRel.mk_mem_comm {V : SetRel α α} (hV : IsSymmetricRel V) {x y : α} :
```
Comment (bryangingechen) [inline Mathlib/Topology/UniformSpace/Defs.lean:237]: This was originally meant to be removed, but it was used in `IsSymmetricRel.preimage_prodMap`, which was only deprecated in #23181, so I pushed the deprecation back.

File: Mathlib/Topology/UniformSpace/Defs.lean [hunk 32]
```diff
@@ -213,83 +212,80 @@ theorem subset_iterate_compRel {s t : SetRel α α} (h : idRel ⊆ s) (n : ℕ)
...
 set_option linter.deprecated false in
-@[deprecated SetRel.isSymm_preimage (since := "2025-03-05")]
+@[deprecated SetRel.isSymm_id (since := "2025-10-17")]
+lemma isSymmetricRel_idRel : IsSymmetricRel (idRel : Set (α × α)) := by
+  simp [IsSymmetricRel, idRel, eq_comm]
+
+set_option linter.deprecated false in
+@[deprecated SetRel.isSymm_univ (since := "2025-10-17")]
+lemma isSymmetricRel_univ : IsSymmetricRel (Set.univ : Set (α × α)) := by
+  simp [IsSymmetricRel]
```
Comment (bryangingechen) [inline Mathlib/Topology/UniformSpace/Defs.lean:272]: As far as I can tell, these two were deleted without deprecation in #23181 ([link to file in diff](https://github.com/leanprover-community/mathlib4/pull/23181/files#diff-e45c27272452cd32af00487bc82cc30f8aba9c55c6572c1acab383141c83c60a)), so I'm adding them back here.

File: Mathlib/Topology/UniformSpace/Defs.lean [hunk 33]
```diff
@@ -213,83 +212,80 @@ theorem subset_iterate_compRel {s t : SetRel α α} (h : idRel ⊆ s) (n : ℕ)
 def IsSymmetricRel (V : SetRel α α) : Prop :=
   Prod.swap ⁻¹' V = V
 
-set_option linter.deprecated false in
-@[deprecated (since := "2025-03-05")]
-alias SymmetricRel := IsSymmetricRel
-
 /-- The maximal symmetric relation contained in a given relation. -/
-@[deprecated SetRel.symmetrize (since := "2025-03-05")]
+@[deprecated SetRel.symmetrize (since := "2025-10-17")]
```
Comment (bryangingechen) [inline Mathlib/Topology/UniformSpace/Defs.lean:216]: Here and throughout the rest of the file, these declarations were deprecated with 2025-03-05 as the date in #23181, so I've changed those deprecation dates to 2025-10-17 to be consistent with the other deprecations added then: ([link to file in diff](https://github.com/leanprover-community/mathlib4/pull/23181/files#diff-e45c27272452cd32af00487bc82cc30f8aba9c55c6572c1acab383141c83c60a)).

File: Mathlib/Topology/UniformSpace/Defs.lean (hunk 32 above)
Comment (bryangingechen) [reply Mathlib/Topology/UniformSpace/Defs.lean:272]: Pinging @YaelDillies on this and the comments above and below on changes related to #23181.

File: Mathlib/Algebra/Group/Submonoid/BigOperators.lean [hunk 34]
```diff
@@ -23,7 +23,6 @@ submonoid, submonoids
 -/
 
 -- We don't need ordered structures to establish basic membership facts for submonoids
-assert_not_exists OrderedSemiring
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Submonoid/BigOperators.lean:26]: This `assert_not_exists` should probably be replaced by something else instead of merely dropped

File: Mathlib/Algebra/GroupWithZero/Action/Pointwise/Set.lean [hunk 35]
```diff
@@ -20,7 +20,7 @@ set multiplication, set addition, pointwise addition, pointwise multiplication,
 pointwise subtraction
 -/
 
-assert_not_exists OrderedAddCommMonoid Ring
+assert_not_exists Ring
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/Action/Pointwise/Set.lean]: I think you could reasonably replace `assert_not_exists OrderedAddCommMonoid` with `assert_not_exists IsOrderedMonoid` everywhere
```suggestion
assert_not_exists IsOrderedMonoid Ring
```

File: Mathlib/Algebra/Group/Submonoid/BigOperators.lean (hunk 34 above)
Comment (bryangingechen) [reply Mathlib/Algebra/Group/Submonoid/BigOperators.lean:26]: Yes, I agree -- any suggestions?

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Submonoid/BigOperators.lean:26]: `IsOrderedRing` sounds most accurate

File: Mathlib/Algebra/Order/Group/Defs.lean (hunk 29 above)
Comment (bryangingechen) [reply Mathlib/Algebra/Order/Group/Defs.lean:62]: There are a lot more of these than I thought there were, so I'm going to turn this into a TODO instead of doing it in this PR.

File: Mathlib/Algebra/Order/Nonneg/Floor.lean [hunk 36]
```diff
@@ -19,7 +19,7 @@ This is used to derive algebraic structures on `ℝ≥0` and `ℚ≥0` automatic
 * `{x : α // 0 ≤ x}` is a `FloorSemiring` if `α` is.
 -/
 
-assert_not_exists Finset LinearOrderedField
+assert_not_exists IsStrictOrderedRing Finset
```
Comment (bryangingechen) [inline Mathlib/Algebra/Order/Nonneg/Floor.lean]:
```suggestion
assert_not_exists Finset Field
```

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 37]
```diff
@@ -99,8 +99,8 @@ instance : Unique (ℤ ≃+o ℤᵒᵈ) where
 open Subgroup in
 /-- In two linearly ordered groups, the closure of an element of one group
 is isomorphic (and order-isomorphic) to the closure of an element in the other group. -/
-@[to_additive /-- In two linearly ordered additive groups, the closure of an element of one group
-is isomorphic (and order-isomorphic) to the closure of an element in the other group. -/]
+@[to_additive /-- In two linearly ordered additive groups, the closure of an element of one group is
+isomorphic (and order-isomorphic) to the closure of an element in the other group. -/]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean]: Unnecessary diff
```suggestion
@[to_additive /-- In two linearly ordered additive groups, the closure of an element of one group
is isomorphic (and order-isomorphic) to the closure of an element in the other group. -/]
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
